Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
hydration for cardiac catheterization 
 
Major Surgical or Invasive Procedure:
cardiac catheterization

 
History of Present Illness:
Mr. ___ is a ___ yo male with a history of Type I Diabetes 
Mellitus, coronary artery disease s/p CABG in ___ (LIMA to LAD, 
SVG to OM, SVG to PDA) and stent in ___ of left main/left PLV 
presents for pre-cath hydration and renal evaluation for 
possible dialysis.  
.  
He had recent routine stress test ___ as part of renal 
transplant work up with showed new basal to mid inferolateral 
hypokinesis with exertion and there is new exercise-induced 
basal to mid anterior septal hypokinesis. Given that he has had 
progressing rise in creatinine he was admitted for pre-cath 
hydration and renal evaluation.  

 
Past Medical History:
1. Type I DM-diagnosed at age ___, follwed by Dr. ___ at 
___ complicated by retinopathy, nephropathy, neuropathy
2. CAD s/p three vessel CABG in ___, stent x2 to ___ in ___, 
EF 45% ?MI- in ___
3. CRI/diabetic nephropathy-seen by Dr. ___ 6)
4. PVD: s/p left AKA, right ___ toe amputated,
5. s/p femoral-popliteal bypass in ___
6. Right eye vetreactomy after retinal hemorrhage
7. L eye laser surgery for retinopathy
8. Iron deficient anemia
9. Urinary retetention

 
Social History:
___
Family History:
Father deceased in his ___ with CVA. Mother had HTN and valve 
replacement. Pt's son with Type I DM.

 
Physical Exam:
VS T97.5 BP 150/62 HR 60 RR 18 98%RA 237lbs  
Gen: WDWN male in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

Neck: Supple with JVP of at the angle of the jaw at 45degress, 
positive HJR  
CV: RRR, II/VI systolic murmur. No thrills, lifts. No S3 or S4.  

Chest: No chest wall deformities, scoliosis or kyphosis. Midline 
well healed sternotomy scar. Resp were unlabored, no accessory 
muscle use. CTAB, no crackles, wheezes or rhonchi.  
Abd: Soft, NT, obese abdomen, No HSM or tenderness, BS +  
Ext: s/p left AKA, right ___ with 1+ pitting edema, DP by doppler 
Skin: No stasis dermatitis, several scars from prior vein 
harvesting of upper extremities bilaterally and right lower 
extremity. Two small areas of skin breakdown over right shin, no 
evidence of infection.  

 
Pertinent Results:
___ Cardiac Cath:
1.  Selective coronary angiography of this co-dominant system 
revealed native three vessel coronary artery disease.  The ___ 
had a 
60-70 % in stent restenosis.  The LAD was totally occluded after 
D1 with 
distal filling via a LIMA.  The LCX had diffuse disease in OM1 
distal to 
the SVG anastamosis that was 60%.  The OM3 is severely diffusely 

diseased with a 70% LPDA lesion.  The RCA was diffusely 
diseased. 
2.  Graft angiography revealed a patent SVG to OM1 nad patent 
SVG to 
PDA. 
3. Arterial conduit angiography revealed a patent LIMA to LAD. 
4.  Limited resting hemodynamics revealed moderate systemic 
arterial 
hypertension of 160/61 mm Hg. 
FINAL DIAGNOSIS:  1. Three vessel coronary artery disease. 
2. Moderate systemic arterial hypertension. 

___ EKG demonstrated NSR at 66bpm, normal axis, normal 
intervals, qwaves in V1, V2, late transition, with no 
significant change compared with prior dated ___.  

___ 2D-ECHOCARDIOGRAM performed on ___ demonstrated: EF 
45%, ECG and 2D echocardiographic evidence of inducible ishemia 
at achieved workload (multivessel CAD). Mild mitral 
regurgitation at rest.  
Suboptimal study - sub-optimal image quality during 
post-exercise acquisitions.; Compared with the prior study 
(images reviewed) of ___, basal to mid inferolateral 
hypokinesis with exertion is new and there is now 
exercise-induced basal to mid anterior septal hypokinesis. The 
previously seen anteroseptal hypokinesis at rest is no longer 
present.  
 
___ ETT performed demonstrated:  
Anginal symptoms reported post-infusion with ischemic ST  
segment changes. Echo report sent separately. ; basal to mid 
inferolateral hypokinesis with exertion is new and there is now 
exercise-induced basal to mid anterior septal hypokinesis. The 
previously seen anteroseptal hypokinesis at rest is no longer 
present.  

Labs on admission:
___ 11:00PM BLOOD WBC-9.1 RBC-3.31* Hgb-9.9* Hct-29.2* 
MCV-88 MCH-29.8 MCHC-33.7 RDW-14.3 Plt ___
___ 11:00PM BLOOD Glucose-298* UreaN-79* Creat-6.0* Na-139 
K-4.3 Cl-103 HCO3-23 AnGap-17

Labs on Discharge;
___ 07:10AM BLOOD WBC-9.9 RBC-3.13* Hgb-9.7* Hct-27.5* 
MCV-88 MCH-30.9 MCHC-35.3* RDW-14.2 Plt ___
___ 07:10AM BLOOD Glucose-104 UreaN-71* Creat-5.8* Na-142 
K-4.0 Cl-103 HCO3-26 AnGap-17
 
Brief Hospital Course:
Mr. ___ is a ___ yo male with history of Type 1 Diabetes 
Mellitus, ESRD, Peripheral Vascular Disease, and Coronary artery 
disease s/p CABG/stenting admitted for pre-cath hydration prior 
to cardiac catheterization and renal consultation.  

1)CAD - s/p CABG in ___, stenting ___ admitted for elective 
cardiac catheterization after a transplant evaluation stress 
test showed new reversible defect inferiorly and anterioroly. He 
is now s/p cardiac cath which showed patent SVG's, native 3V-CAD 
with 60-70% instent restenosis of LMCA, LAD occluded after D1 
with distally filling LIMA.  LCX with diffuse disease in OM1 
distal to the SVG anastamosis.  There was no intervention during 
his catheterization.  His creatinine remained stable without any 
evidence of contrast nephropathy.  He was continued on his home 
regimen of asa, plavix, statin, and metoprolol.  From a cardiac 
standpoint, he is now medically optimized for upcoming 
procedures including dialysis catheter placement and renal 
transplant if needed.  
  
2)ESRD- ___ long standing Type I DM, he has had progressively 
worsening renal function and likely will require dialysis 
initiation in the near future.  He tolerated cardiac 
catheterization with no evidenc of constrast nephropathy 48 hour 
after the procedure.  He continued to have good urine output.  
His home dose lasix was resumed 24 hours post cath and he was 
discharged on home regimen of phos lo, calcium acetate and 
calcitriol.  He was discharged with clinic follow up with Dr. 
___ Dr. ___.
  
3)Chronic systolic heart failure - EF 40-45% on recent echo, 
remained euvolemic to slightly hypervolemic throughout his 
admission.  He was continued on norvasc, metoprolol and lasix on 
discharge.  

4)Type 1 Diabetes Mellitus: complicated by peripheral vascular 
disease, nephropathy, retinopathy, and neuropathy.  He was 
continued on his home regimen of NPH and covered with HISS. 

5)Anemia - has baseline HCT of ___, currently 29.4, likely ___ 
ESRD. He does report occasional blood streaked sputum associated 
with constipation/straining. Most recent colonoscopy in ___ 
with adenomatous polps.  He was continued on epoetin at home 
dose 5000/wk which was increased to 5000 units q 5 days on 
discharge.  

6)Code: full  
 
Medications on Admission:
1. Norvasc 10mg PO daily  
2. Calcitriol .5mcg PO qod  
3. Phoslo 667mg PO bid with meals  
4. Plavix 75mg PO daily  
5. Doxazosin 2mg PO bid  
6. Epo 5000 units SC q weekly  
7. Lasix 60mg qAM, 40mg qPM  
8. Toprol XL 150mg PO daily  
9. Simvastatin 40mg PO daily  
10. Flomax .4mg PO daily  
11. ASA 81mg PO daily  
12. NPH 34 units qam, 20 units qpm  
13. stool softner  
14. MVI  

 
Discharge Medications:
1. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

2. Calcitriol 0.5 mcg Capsule Sig: One (1) Capsule PO every 
other day.  
3. Calcium Acetate 667 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
6. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: 1.5 Tablet Sustained Release 24 hrs PO once a day. Tablet 
Sustained Release 24 hr(s) 
8. Furosemide 20 mg Tablet Sig: Three (3) Tablet PO QAM (once a 
day (in the morning)).  
9. Furosemide 40 mg Tablet Sig: One (1) Tablet PO QPM (once a 
day (in the evening)).  
10. Epoetin Alfa 10,000 unit/mL Solution Sig: 5000 (5000) units 
Injection q5 days: please inject ___ units every 5 days.
___ units* Refills:*2*
11. Doxazosin 1 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
12. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
13. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAYS (___).  
14. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
15. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
16. Hexavitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
17. Insulin NPH Human Recomb 100 unit/mL Suspension Sig: Thirty 
Four (34) units Subcutaneous QAM.  
18. Insulin NPH Human Recomb 100 unit/mL Suspension Sig: Twenty 
(20) units Subcutaneous QPM.  
19. Outpatient Lab Work
Chem 7 panel
Please have this checked before your upcoming appointment with 
Dr. ___ on ___.  Dr. ___ number ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Coronary artery disease s/p CABG, stenting
Type I DM
End stage renal disease
Peripheral vascular disease

 
Discharge Condition:
fair

 
Discharge Instructions:
You were admitted to the hospital for a planned cardiac 
catheterization to evaluate an abnormal stress test that you 
had.  Your cardiac catheterization shwed that your venout grafts 
are open.  You do have some plaques in your native heart 
arteries but nothing that needed to be stented.  You did not 
have any stents placed during your cardiac catheterization.  You 
were given medication and IV fluids to protect your kidneys from 
the dye that was used for the cardiac catheterization.  Your 
creatinine, which is a measure of your kidney function, remained 
stable around 5.8 and you did not show any evidence of kidney 
damage caused by the dye.

Medications:  
1) Please increase your epoetin to 5000 units every 5 days 
according to Dr. ___.

None of your other medications were changed.  

Please have blood worked checked prior to your upcoming 
appointment with Dr. ___ to be sure that your kidney function 
is stable.  

Weigh yourself every morning, call MD if weight > 3 lbs.
Adhere to 2 gm sodium diet

Please call your doctor or return to the hospital if you have 
any concerning symptoms including chest pain, shortness of 
breath, difficulty urinating, worsening swelling, or any other 
worrisome symptoms.
 
Followup Instructions:
___